US08440665B2
Isopropyl 5-(4-cyclopropyl-2-mercapto-1H-imidazol-1-yl)-2-fluorobenzoate (0.776 g, 2.43 mmol) was suspended in a water (16 ml) and fuming nitric acid (4 ml) mixture. The mixture was stirred under nitrogen at 100° C. while monitoring by LC/MS. When the reaction was complete heat was removed and ammonium hydroxide was added to bring the pH to neutral. The solvent was removed under reduced pressure and the residue purified by column chromatography to afford isopropyl 5-(4-cyclopropyl-1H-imidazol-1-yl)-2-fluorobenzoate. (0.306 g, 1.06 mmol). 44% yield. 289 (M+1).

reactant | Isopropyl 5-(4-cyclopropyl-2-mercapto-1H-imidazol-1-yl)-2-fluorobenzoate | 2.43 mmol, 0.776 g | C1(CC1)C=1N=C(N(C1)C=1C=CC(=C(C(=O)OC(C)C)C1)F)S | C16H17FN2O2S
reactant | nitric acid | 4 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | 16 ml | O | H2O
product | isopropyl 5-(4-cyclopropyl-1H-imidazol-1-yl)-2-fluorobenzoate | 44% yield | C1(CC1)C=1N=CN(C1)C=1C=CC(=C(C(=O)OC(C)C)C1)F | C16H17FN2O2
